US09326513B2
Preparation of 5-bromo-6-(cis-4-isopropylcyclohexoxy)-2-methyl-pyridin-3-amine
To a stirred solution of 3-bromo-2-(cis-4-isopropylcyclohexoxy)-6-methyl-5-nitro-pyridine (22.59 g, 63.24 mmol) in EtOH/H2O (600 mL/150 mL, 4/1 v/v), ammonium chloride (3.45 g, 63.24 mmol, 1.0 eq) and iron powder (14.27 g, 253.0 mmol, 4 eq) were added at room temperature under inert atmosphere (Ar). The reaction mixture was stirred for 3 h under heating to reflux. As TLC indicated that the starting material was consumed at this point in time, the reaction mixture was cooled to room temperature and filtered through a pad of celite. The resulting filtrate was concentrated in vacuo and the residue partitioned between a 2 molar aqueous NaOH solution (100 mL) and ethyl acetate (150 mL). After phase separation, the aqueous phase was extracted once more with ethyl acetate (2×100 mL). The organic layer was washed with brine (400 mL), dried over anhydrous Na2SO4 and filtered. The solvent was removed in vacuo to afford the title compound (21.01 g, 101%) in the form of an oil.

reactant | 3-bromo-2-(cis-4-isopropylcyclohexoxy)-6-methyl-5-nitro-pyridine | 63.24 mmol, 22.59 g | BrC=1C(=NC(=C(C1)[N+](=O)[O-])C)O[C@@H]1CC[C@@H](CC1)C(C)C | C15H21BrN2O3
reactant | ammonium chloride | 63.24 mmol, 3.45 g, 1.0 eq | [Cl-].[NH4+]
solvent | EtOH H2O | 600 mL | CCO.O
catalyst | iron | 253.0 mmol, 14.27 g, 4 eq | [Fe] | Fe
product | 5-bromo-6-(cis-4-isopropylcyclohexoxy)-2-methyl-pyridin-3-amine | 21.01 g, 101% | BrC=1C=C(C(=NC1O[C@@H]1CC[C@@H](CC1)C(C)C)C)N | C15H23BrN2O
